US04125703
1 part by weight of the phenol silicate compound as produced in Example 1 is mixed with 0.5 to 3 parts by weight of furfuryl alcohol then heated to 70° to 120° C. for 30 to 120 minutes thereby producing a brown, liquid poly (furfuryl phenol silicate) resinous product. The resinous product is cured by adding an acid compound such as sulfuric acid, hydrochloric acid, phosphoric acid, acetic acid and sodium hydrogen sulfate, thereby producing a brown solid, tough resinous product.

reactant | phenol silicate | [Si](O)(O)(O)O.C1(=CC=CC=C1)O
reactant | furfuryl alcohol | C(C1=CC=CO1)O | C5H6O2
product | furfuryl phenol silicate | [Si](O)(O)(O)O.C(C1=CC=CO1)C1=C(C=CC=C1)O | InChI=1S/C11H10O2.H4O4Si/c12-11-6-2-1-4-9(11)8-10-5-3-7-13-10;1-5(2,3)4/h1-7,12H,8H2;1-4H
